US05962457
2-Methyl-thieno[3,2-d][1,3]oxazin-4-one (1.67 g, 10 mmol) and o-chloroaniline (2.1 mL, 20 mmol) were combined in acetic acid (20 mL) and refluxed for 4.5 hours. The reaction was partitioned between ethyl acetate and water. The two phase mixture was treated with sodium bicarbonate until the aqueous layer was basic and the phases were then separated. The aqueous phase was extracted with ethyl acetate and the combined organic layer was washed with water and brine, dried over sodium sulfate and concentrated to leave a brown oil. This residue was purified by flash chromatography on silica gel (30×150 mm). Elution with 10% and 20% ethyl acetate/hexane gave 1.42 g (51%) of 2-methyl-3-(2-chlorophenyl)-3H-thieno[3,2-d]pyrimidin-4-one was isolated as a brown oil which solidified on standing.

reactant | 2-Methyl-thieno[3,2-d][1,3]oxazin-4-one | 10 mmol, 1.67 g | CC=1OC(C2=C(N1)C=CS2)=O | C7H5NO2S
reactant | o-chloroaniline | 20 mmol, 2.1 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-methyl-3-(2-chlorophenyl)-3H-thieno[3,2-d]pyrimidin-4-one | 1.42 g, 51% | CC=1N(C(C2=C(N1)C=CS2)=O)C2=C(C=CC=C2)Cl | C13H9ClN2OS
